US07790885B2
N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
4-(4,6-Dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (80.8 mg) was added to a mixture of 1-[({2,5-difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}amino)carbonyl]cyclopropanecarboxylic acid triethylamine salt (75.3 mg), 4-fluoroaniline (0.026 ml) and tetrahydrofuran (1.0 ml) at room temperature under a nitrogen atmosphere, and the mixture was stirred for 5 hours. 4-(4,6-Dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (80.8 mg) was added at room temperature, and the mixture was stirred for 87 hours. A saturated aqueous solution of sodium hydrogencarbonate (5 ml) was added to the reaction mixture and stirred, and the mixture was partitioned after the addition of ethyl acetate (20 ml) and water (20 ml). The organic layer was washed with brine (10 ml), and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, ethyl acetate:methanol=10:1). The fractions containing the target compound was concentrated under reduced pressure to give the title compound (68.1 mg, 92%) as a white solid.

reactant | 4-(4,6-Dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 80.8 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 1-[({2,5-difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}amino)carbonyl]cyclopropanecarboxylic acid triethylamine salt | 75.3 mg | C(C)N(CC)CC.FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)O
reactant | 4-fluoroaniline | 0.026 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(4,6-Dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 80.8 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 68.1 mg, 92% | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C26H22F3N5O5
